US04391818
To a mixture of 2.2 g of sodium hydride (as a 50% oil dispersion) and 15.5 g of methyl iodide in 300 ml of dried dimethylformamide, there was added dropwise a solution of 7.1 g of 2-(4-nitrophenyl)butanol in 100 ml of dimethylformamide. The resulting mixture was stirred at room temperature for 20 hours and then poured into an aqueous solution containing 0.2 M potassium hydrogen phosphate/potassium dihydrogen phosphate buffer solution (pH 7). The resulting mixture was extracted several times with diethyl ether and the combined organic extracts were washed with aqueous dilute sodium thiosulfate solution, water, and aqueous saturated sodium chloride solution, and dried over magnesium sulfate. Evaporation of the solvent gave a red oil which was purified by chromatography on silica gel and elution with ethyl acetate/hexane to give 4-[1-(methoxymethyl)-propyl]nitrobenzene.

reactant | sodium hydride | 2.2 g | [H-].[Na+]
reactant | methyl iodide | 15.5 g | CI | CH3I
reactant | 2-(4-nitrophenyl)butanol | 7.1 g | [N+](=O)([O-])C1=CC=C(C=C1)C(CO)CC | C10H13NO3
reactant | potassium hydrogen phosphate potassium dihydrogen phosphate | 0.2 M, pH 7 | P(=O)(O)([O-])[O-].[K+].[K+].P(=O)(O)(O)[O-].[K+]
solvent | dimethylformamide | 300 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 4-[1-(methoxymethyl)-propyl]nitrobenzene | COCC(CC)C1=CC=C(C=C1)[N+](=O)[O-] | C11H15NO3
